US05250554
Methyl 2-butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-5-carboxylate
A mixture of methyl 4-[N-(2'-cyanobiphenyl-4-yl)methyl-N-valerylamino]-3-nitrobenzoate (1.7 g), sodium azide (3.9 g) and ammonium chloride (3.2 g) in DMF (17 ml) was stirred at 115 ° C. for 5 days. To the reaction mixture was added water and the mixture was neutralized with 1N-HCl, followed by extraction with ethyl acetate. The organic layer was washed with water, dried and concentrated to dryness. The concentrate was purified by column chromatography on silica gel to give crude crystals. Recrystallization from ethyl acetate gave colorless needles (0.67 g, 34%), m.p. 134-136° C.

reactant | methyl 4-[N-(2'-cyanobiphenyl-4-yl)methyl-N-valerylamino]-3-nitrobenzoate | 1.7 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN(C(CCCC)=O)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C27H25N3O5
reactant | sodium azide | 3.9 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 3.2 g | [Cl-].[NH4+]
reactant | HCl | Cl | ClH
solvent | DMF | 17 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Methyl 2-butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-5-carboxylate | 0.67 g, 34% | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=CC(=C2)C(=O)OC | C27H26N6O2
